US05116941
After 15.9 g (0.084 mole) of BOC-Ala-OH was dissolved in 84 ml of DMF, 10.9 ml (0.084 mole) of NEM was added to the solution. Then, 10.9 ml (0.084 mole) of isobutyl chloroformate was dropwise added to the solution at -20° C. The resulting mixture was reacted for 10 minutes. After completion of the reaction, 84 ml of a solution of 32.8 g (0.084 mole) of HCl.H-Arg(NO2)-CHA and 32.8 ml (0.252 mole) of NEM in DMF was dropwise added to the reaction solution at -15° to -10° C. After the dropwise addition, the mixture was reacted at the same temperature for 23 hours and further at room temperature (15° to 20° C.) for 18 hours. After the reaction, DMF was removed by distillation under reduced pressure and the residue was dissolved in 600 ml of AcOEt. After washing 3 times with 200 ml of cold 5% hydrochloric acid and twice with 200 ml of saturated sodium chloride aqueous solution, the solution was dried over anhydrous magnesium sulfate and decolored with activated charcoal. After drying, magnesium sulfate and activated charcoal were filtered off and the solvent was removed by distillation under reduced pressure. Recrystallization of the residue gave 31.0 g (70.3%) of BOC-Ala-Arg(NO2)-CHA.

reactant | BOC-Ala-OH | 0.084 mole, 15.9 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | isobutyl chloroformate | 0.084 mole, 10.9 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl | 0.084 mole, 32.8 g | Cl | ClH
reactant | H-Arg(NO2) | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O | C6H13N5O4
solvent | DMF | 84 ml | CN(C)C=O | C3H7NO
product | BOC-Ala-Arg(NO2) | 31.0 g, 70.3% | N([C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OC(C)(C)C | C14H26N6O7
